US06605626B2
Preparation of N1-(3-Methoxybenzoyl)-N2-(4-tert-butylbenzoyl)-1,2-benzenediamine
Using the procedure described in Example 102, Part A, 3-anisic acid (3.6 mmol) and N1-(4-tert-butylbenzoyl)-1,2-benzenediamine (1.8 mmol) yielded 610 mg (84%) of the title compound.

reactant | 3-anisic acid | 3.6 mmol | C(C1=CC(=CC=C1)OC)(=O)O | C8H8O3
reactant | N1-(4-tert-butylbenzoyl)-1,2-benzenediamine | 1.8 mmol | C(C)(C)(C)C1=CC=C(C(=O)NC=2C(=CC=CC2)N)C=C1 | C17H20N2O
product | N1-(3-Methoxybenzoyl)-N2-(4-tert-butylbenzoyl)-1,2-benzenediamine | 610 mg, 84% | COC=1C=C(C(=O)NC=2C(=CC=CC2)NC(C2=CC=C(C=C2)C(C)(C)C)=O)C=CC1 | C25H26N2O3
